### PR TITLE
[Merged by Bors] - feat: MeasurableSet.iff

### PR DESCRIPTION
**Pull request by RemyDegenne**
Add two lemmas:
`MeasurableSet.imp (hs : MeasurableSet {x | p x}) (ht : MeasurableSet {x | q x}) : MeasurableSet {x | p x → q x}`
`MeasurableSet.iff (hs : MeasurableSet {x | p x}) (ht : MeasurableSet {x | q x}) : MeasurableSet {x | p x ↔ q x}`

From the LeanBandits project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Defs.lean [hunk 1]
```diff
@@ -205,6 +205,20 @@ protected theorem MeasurableSet.cond {s₁ s₂ : Set α} (h₁ : MeasurableSet
 protected theorem MeasurableSet.const (p : Prop) : MeasurableSet { _a : α | p } := by
   by_cases p <;> simp [*]
 
+protected lemma MeasurableSet.imp {p q : α → Prop}
+    (hs : MeasurableSet {x | p x}) (ht : MeasurableSet {x | q x}) :
+    MeasurableSet {x | p x → q x} := by
+  have h_eq : {x | p x → q x} = {x | p x}ᶜ ∪ {x | q x} := by ext; grind
+  rw [h_eq]
+  exact MeasurableSet.union hs.compl ht
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/MeasurableSpace/Defs.lean]: Thanks!
```suggestion
  exact hs.compl.union ht
```
maintainer delegate
